US04794113
To 20 ml of ethanol were added 1.37 g of p-hydroxy-6-(1-imidazolyl)hexaneanilide and 0.69 g of anhydrous potassium carbonate and the mixture was stirred for 30 minutes with heating under reflux. After cooling, 1.26 g of ethyl 6-bromo-2,2-dimethylhexanoate was added thereto and the mixture was reacted overnight with heating under reflux. The solvent was removed from the reaction mixture by distillation under reduced pressure. Water was added to the resulting residue followed by extracting with chloroform. After the chloroform layer was successively washed with a 1N aqueous sodium hydroxide solution and a saturated aqueous sodium chloride solution, it was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure and the resulting residue was subjected to silica gel column chromatography. The product was eluted out using a chloroform-methanol liquid mixture (50:1 in a volume ratio). The solvent was removed by distillation under reduced pressure. The resulting crystals were recrystallized from a solvent mixture of n-hexane-ethylacetate to obtain ethyl 6-[p-[6-(1-imidazolyl)hexanamido]phenoxy]-2,2-dimethylhexanoate as white crystals.

reactant | p-hydroxy-6-(1-imidazolyl)hexaneanilide | 1.37 g | OC1=CC=C(NC(CCCCCN2C=NC=C2)=O)C=C1 | C15H19N3O2
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 6-bromo-2,2-dimethylhexanoate | 1.26 g | BrCCCCC(C(=O)OCC)(C)C | C10H19BrO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 6-[p-[6-(1-imidazolyl)hexanamido]phenoxy]-2,2-dimethylhexanoate | N1(C=NC=C1)CCCCCC(=O)NC1=CC=C(OCCCCC(C(=O)OCC)(C)C)C=C1 | C25H37N3O4
